Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluorouracil
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ female with locally advanced
pancreatic CA on palliative chemotherapy who is admitted due to
fever. 

Pt recently admitted to ___ ___ due to cellulitis of 
RLE.
She completed her antibiotics as outpatient with resolution of
erythema. She followed up in clinic on ___ and had clinical
improvement with improvement in functional status. Pt started on
C2D1 of paclitaxel/gemcitabine on ___. Pt had fever to 102 on
___ which improved. No localizing symptoms at that time. On 
___
she had an episode of diarrhea and took Imodium with resolution.
Pt seen in clinic on ___ and given 1L IVF with lab check. She
was found to have WBC of 18k and on follow up phone call with pt
later in the day, she reported fever to 104. Pt was advised to
come to the ED. 

In the ED, pt was afebrile. She did have transient hypotension 
to
89/53 with recovery to 110's/50's. Urinalysis was unremarkable.
CXR was also unremarkable. LFT's only with mild elevation in
alkaline phosphatase. Pt was cultured, and given Vanc/Cefepime
and admitted for further care. 

On admission, pt reports no abdominal pain or further diarrhea
since ___. No cough. No dyspnea. No dysuria or increase in
urinary frequency.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Pancreatic cancer stage III (T4N0Mx)
- ___ Developed new back pain with escalating abdominal pain
in the epigastrium as well as weight loss. 
- ___ Seen by her for above complaints. Reported 15 lbs
unintentional weight loss as well over the past 3 months as 
well.
- ___ Seen by GI, and was started on omeprazole with some
effect. 
- ___ EGD showed chronic active inflammation of the
duodenum, biopsies negative. 
- ___ EUS demonstrated a 4 x 5 cm ill-defined mass in the
HOP w/borders that were irregular and poorly defined. FNB showed
adenocarcinoma, histologically c/w pancreatobiliary origin. 
- ___ CT torso showed a locally advanced mass in the HOP
with extensive vascular involvement including encasement and
attenuation of the portal vein, portosplenic confluence, SMV,
CHA, and SMA all > 180 degrees. Also found to have multiple lung
nodules, one in the RLL is more conspicuous.
- ___: FOLFIRINOX C1D1
- ___: Developed chest pain with ___ coronary
vasospasm. Admitted to cardiology service with transient STE in 
I
and aVL on EKG. Underwent cath which showed no coronary artery
disease but evidence of a myocardial bridge in the mid-LAD.
Cannot receive further ___ 
- ___: C1D1 gemcitabine/NAB paclitaxel
- ___: C1D8 gemcitabine/NAB paclitaxel (given on day 9 due to
holiday) 
- ___: C1D15 gemcitabine/NAB paclitaxel
- ___: inpatient admission for bilateral cellulitis and
sepsis
- ___: C2D1 held due to recent infection and fatigue 
- ___ C2D1 gemcitabine/NAB paclitaxel
  
PAST MEDICAL HISTORY: 
STEMI ___ VASOSPASM FROM ___
PANCREATIC CANCER                                               
DEPRESSION                                                      
GASTROESOPHAGEAL REFLUX                                         
HEALTHCARE MAINTENANCE                                          
MENOPAUSE                                                       
R BREAST CYST                                                   
RECTAL BLEEDING                                                 
SKIN CANCERS                                                    
SYSTOLIC EJECTION MURMUR                                        
TOBACCO USE                                                     
SKIN CHECK                                                      
ACTINIC KERATOSIS                                               
SLEEP APNEA                                                     
BASAL CELL CARCINOMA                                            
PULMONARY NODULE    
 
Social History:
___
Family History:
She has family history of MI in mother and sister in early ___ 
Brother: s/p ICD, ?h/o arrhythmia, patient is not sure of 
details
Father: HTN, CAD
No history of sudden cardiac death

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VS: 98.0 99/50 68 18 97%RA 
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses, 2+ DP pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM:
======================
VS: 98.2 PO |141 / 59 |79 |16 |100 RA 
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses, 2+ DP pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: Skin type III. Skin with poikilodermic changes. 
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:10AM   WBC-17.9*# RBC-3.49* HGB-10.7* HCT-32.0* 
MCV-92 MCH-30.7 MCHC-33.4 RDW-16.8* RDWSD-56.2*
___ 08:10AM   NEUTS-89.9* LYMPHS-7.6* MONOS-0.6* EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-16.06*# AbsLymp-1.35 
AbsMono-0.11* AbsEos-0.05 AbsBaso-0.05
___ 08:10AM   UREA N-18 CREAT-0.9 SODIUM-136 POTASSIUM-3.7 
CHLORIDE-96 TOTAL CO2-26 ANION GAP-14
___ 08:10AM   ALT(SGPT)-31 AST(SGOT)-32 ALK PHOS-143* TOT 
BILI-1.1
___ 08:10AM   CALCIUM-9.1 PHOSPHATE-3.0 MAGNESIUM-1.9

IMAGING:
=======
CXR (___)
PA and lateral views of the chest provided.  Port-A-Cath resides 
over the right chest wall with catheter tip in the region of the 
mid SVC. There is no focal consolidation, effusion, or 
pneumothorax. The cardiomediastinal silhouette is normal. Imaged 
osseous structures are intact.  No free air below the right 
hemidiaphragm is seen.

LIVER/GALLBLADDER U/S (___)
1. No intrahepatic biliary dilatation.
2. Known pancreatic head mass, measuring approximately 5.0 x 4.9 
x 2.8 cm.
3. Cholelithiasis, without sonographic evidence of acute 
cholecystitis.

MICRO:
======
All blood and urine cultures- no growth

DISCHARGE LABS:
==============

___ 04:32AM BLOOD WBC-5.5 RBC-2.67* Hgb-8.1* Hct-24.8* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-16.3* RDWSD-55.0* Plt Ct-99*
___ 04:32AM BLOOD Glucose-95 UreaN-9 Creat-0.5 Na-144 K-3.4 
Cl-105 HCO3-27 AnGap-12
___ 04:32AM BLOOD Calcium-8.3* Phos-3.3 Mg-2.0
 
Brief Hospital Course:
___ is a ___ year old female with locally 
advanced pancreatic CA on gemcitabine/paclitaxel (C2D1  on 
___, who presented with new fever and leukocytosis. 

#Fever/leukocytosis
#Locally advanced pancreatic cancer
The patient was admitted after having several recorded fevers in 
the four days following her second dose of 
gemcitabine/paclitaxel on ___. She had an isolated episode of 
diarrhea, which improved with Imodium. She otherwise had no 
localizing infectious symptoms. On the day of admission, she was 
found to have a leukocytosis to 18k and a fever to ___. 
Otherwise, CXR, UA, and LFTs were unremarkable. She was started 
on Vancomycin/Cefepime for empiric coverage. Since her diarrhea 
did not recur during her stay, it was suspected to be 
chemo-related. The patient remained afebrile throughout the 
admission and, due to low concern for infection, was discharged 
home without antibiotics, with plans for close followup with Dr. 
___.

#Transient hypotension on admission
#Recent STEMI ___ vasospasm - due to ___
The patient was transiently hypotensive to 89/53 in the ED, 
improved to 110s/50s with IVF. This hypotension was felt to be 
secondary to dehydration. Home diltiazem was held on admission 
given this episode of hypotension and initial concern for 
sepsis. Diltiazem was resumed upon discharge.

CODE: Full (presumed)  

Name of health care proxy: ___
Relationship: Husband
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Omeprazole 40 mg PO BID 
3. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
4. Sertraline 75 mg PO DAILY 
5. LOPERamide 2 mg PO QID:PRN diarrhea 
6. LORazepam 0.5-1 mg PO QHS:PRN anxiety, insomnia 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q12H:PRN nausea 
9. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Diltiazem Extended-Release 120 mg PO DAILY  
2.  LOPERamide 2 mg PO QID:PRN diarrhea  
3.  LORazepam 0.5-1 mg PO QHS:PRN anxiety, insomnia  
4.  Omeprazole 40 mg PO BID  
5.  Ondansetron 8 mg PO Q8H:PRN nausea  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe  
7.  Prochlorperazine 10 mg PO Q12H:PRN nausea  
8.  Senna 8.6 mg PO BID:PRN constipation  
9.  Sertraline 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to participate in your care.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had several fevers 
after your recent chemotherapy, and your white blood cell count 
(often a marker of infection) was high.

WHAT HAPPENED WHILE I WAS HERE?
You had a large investigation into why you were having fevers, 
and were started on antibiotics.  We were unable to find a 
source for this fever, and you did not have additional fevers. 
Your antibiotics were stopped, we watched you for 24 hours, and 
you continued to be stable.  

WHAT SHOULD I DO WHEN I GET HOME?
You should continue to take your medications as prescribed, and 
monitor for any fevers, chills, cough, shortness of breath, 
abdominal pain, diarrhea, or rashes. 

We wish you the best!
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___